* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LT3013 1 2 3 4 5 6 7 8 9 10
Q1 N016 N012 10 0 PN
Q2 N012 N010 5 0 NA
Q3 N010 N011 N020 0 NP
C1 N010 N011 6p Rser=500K
Q4 N011 N011 N022 0 NP 10
R2 N022 5 12K
R3 N020 5 10K
C2 2 N011 30p Rser=1K
Q5 2 4 N021 0 FB
R6 N021 N022 111.6K
R5 8 5 10Meg
I1 8 5 3µ load
A1 8 5 5 5 5 5 N002 5 SCHMITT Vt=.8 Vh=1m trise=2m
G2 10 N011 N002 5 1.3µ
G1 10 N010 N002 5 1.3µ
R1 10 N012 70K
R8 N016 2 .2
A2 N014 5 N010 N010 N010 N010 5 N010 VARISTOR
D3 5 N014 F
G3 5 N014 2 N016 250m
Q7 N011 N012 N016 0 P 5m
D1 10 2 X
C7 10 5 10p Rpar=50Meg
G5 N014 5 N002 5 table(0 42m 1 0)
C4 10 N010 2p Rser=1G
C5 10 N011 1p Rser=1G
C8 4 5 1p Rpar=50Meg
C9 2 5 10p Rpar=.1G
A3 4 5 5 5 5 N017 N015 5 SCHMITT Vt=1.16 Trise=10u Vh=10m
A4 N015 N017 5 5 5 N008 5 5 SRFLOP Trise=10u
Q6 7 N008 5 0 CDC
R11 N007 7 1K
Q8 N013 N005 N007 0 P
R12 N013 5 500K
Q9 N006 N013 5 0 N1
Q10 6 N006 5 0 NP
A5 10 5 5 5 5 5 N005 5 SCHMITT Vt=0.7 Vh=1m Trise=1u Vhigh=1.07
G4 5 N014 10 5 table(2 .01m 10 35.5m 30 40.5m 80 14m)
G6 10 5 10 5 table(25 0 80 175u)
A6 5 N002 5 5 5 5 N004 5 VARISTOR
R10 N004 10 10G
G7 10 5 N004 5 table(.9 0 1 45u)
G8 10 7 N005 5 3.35µ
G9 10 N006 N005 5 50n
.model PN PNP(BF=30 Cje=100p Cjc=100p Tf=10n Re=.25)
.model NA NPN(BF=1Meg Cje=40p Cjc=40p Re=20)
.model NP NPN(BF=600)
.model FB NPN(BF=150 Cje=100p Cjc=100p)
.model F D(Ron=1m Roff=10K  Vrev=10)
.model X D(Ron=100 Vfwd=90)
.model CDC NPN (BF=100 Re=8K Rb=1Meg)
.model P PNP (BF=100 Rb=10)
.model N1 NPN (BF=100 Rb=10Meg)
.ends LT3013
*
.subckt LT3013B 1 2 3 4 5 6 7 8 9 10
Q1 N016 N012 10 0 PN
Q2 N012 N010 5 0 NA
Q3 N010 N011 N020 0 NP
C1 N010 N011 6p Rser=500K
Q4 N011 N011 N022 0 NP 10
R2 N022 5 12K
R3 N020 5 10K
C2 2 N011 30p Rser=1K
Q5 2 4 N021 0 FB
R6 N021 N022 111.6K
A1 10 5 5 5 5 5 N002 5 SCHMITT Vt=.8 Vh=1m trise=2m
G2 10 N011 N002 5 1.3µ
G1 10 N010 N002 5 1.3µ
R1 10 N012 70K
R8 N016 2 .2
A2 N014 5 N010 N010 N010 N010 5 N010 VARISTOR
D3 5 N014 F
G3 5 N014 2 N016 250m
Q7 N011 N012 N016 0 P 5m
D1 10 2 X
C7 10 5 10p
G5 N014 5 N002 5 table(0 42m 1 0)
C4 10 N010 2p Rser=1G
C5 10 N011 1p Rser=1G
C8 4 5 1p
C9 2 5 10p
A3 4 5 5 5 5 N017 N015 5 SCHMITT Vt=1.16 Trise=10u Vh=10m
A4 N015 N017 5 5 5 N008 5 5 SRFLOP Trise=10u
Q6 7 N008 5 0 CDC
R11 N007 7 1K
Q8 N013 N005 N007 0 P
R12 N013 5 500K
Q9 N006 N013 5 0 N1
Q10 6 N006 5 0 NP
A5 10 5 5 5 5 5 N005 5 SCHMITT Vt=0.7 Vh=1m Trise=1u Vhigh=1.07
G4 5 N014 10 5 table(2 .01m 10 35.5m 30 40.5m 80 14m)
G6 10 5 10 5 table(25 0 80 175u)
A6 5 N002 5 5 5 5 N004 5 VARISTOR
R10 N004 10 10G
G7 10 5 N004 5 table(.9 0 1 45u)
G8 10 7 N005 5 3.35µ
G9 10 N006 N005 5 50n
.model PN PNP(BF=30 Cje=100p Cjc=100p Tf=10n Re=.25)
.model NA NPN(BF=1Meg  Cje=40p Cjc=40p Re=20)
.model NP NPN(BF=600)
.model FB NPN(BF=150  Cje=100p Cjc=100p )
.model F D(Ron=1m Roff=10K  Vrev=10)
.model X D(Ron=10 Vfwd=90)
.model CDC NPN (BF=100 Re=8K Rb=1Meg)
.model P PNP (BF=100 Rb=10)
.model N1 NPN (BF=100 Rb=10Meg)
.ends LT3013B
